US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-2-methyl-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-6-ylamine
A mixture of 4-(4-{6-amino-2-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (20.0 mg, 0.0299 mmol), 2.0 M Me2Zn in PhMe (0.04 mL, 0.08 mmol), and Pd(PPh3)4 (2.9 mg, 0.0025 mmol) in THF (1 mL) was degassed and refilled with argon (3×), then heated at 100° C. for 30 min using a CEM microwave reactor. The solution was passed through a PL-Thiol SPE cartridge to remove metals. The material was then dissolved in dioxane and EtOH, charged with 4M HCl in Dioxane (0.2 mL) and stirred at rt for 4 h. The solution was concentrated in vacuo, redissolved in DMF (0.5 mL) and purified via HPLC. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.90 (d, J=6.8 Hz, 3H), 2.28-2.39 (m, 4H), 2.43 (s, 3H), 3.16-3.26 (m, 2H), 3.55-3.62 (m, 2H), 4.61 (dt, J=10.0, 5.0 Hz, 1H), 6.50 (q, J=6.7 Hz, 1H), 7.22 (t, J=8.6 Hz, 1H), 7.40 (dd, J=9.1, 4.8 Hz, 1H), 7.79 (s, 1H), 7.89 (s, 1H), 7.99 (s, 1H). MS (ES+): m/z 504.06/506.07 (100/71) [MH+]. HPLC: tR=2.73 min (ZQ3, polar—5 min).

reactant | 4-(4-{6-amino-2-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.0299 mmol, 20.0 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=C(OC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N)Br | C28H29BrCl2FN5O4
reactant | Me2Zn | 2.0 M | [Zn](C)C
reactant | PhMe | 0.08 mmol, 0.04 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.0025 mmol, 2.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)ethoxy]-2-methyl-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=C(O2)C)C=2C=NN(C2)C2CCNCC2 | C24H24Cl2FN5O2
